US04997667
A solution of 1.2 g (6.4 mmol) of 2-chloro-5pyridylthiourea, 1 g (7.68 mmol) of glycine tert-butyl ester and 1.45 g (7.04 mmol) of dicyclohexylcarbodiimide in 30 ml of ethyl acetate is heated for 2.5 hr at 60° C. The dicyclohexylthiourea precipitate formed is eliminated by filtration. The filtrate is concentrated to dryness The product obtained is taken up in 20 ml of dichloromethane and then extracted with a 0.25 N aqueous hydrochloric acid solution (4 × 30 ml). The acid solution is then neutralized with a 1 N sodium hydroxide solution, and thereafter is extracted with dichloromethane (3× 20 ml), thus permitting 0.65 g (yield 36%) of tert-butyl N-[2-chloro-5-aminopyridyl(imino)methyl]-2-aminoethanoate to be obtained in the form of an oil.

reactant | 2-chloro-5pyridylthiourea | 6.4 mmol, 1.2 g | ClC1=NC=C(C=C1)NC(=S)N | C6H6ClN3S
reactant | glycine tert-butyl ester | 7.68 mmol, 1 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | dicyclohexylcarbodiimide | 7.04 mmol, 1.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | tert-butyl N-[2-chloro-5-aminopyridyl(imino)methyl]-2-aminoethanoate | 0.65 g, yield 36% | ClC1=NC=C(C=C1C(NCC(=O)OC(C)(C)C)=N)N | C12H17ClN4O2
